US05900475
Preparation of (3-chloropropyl)tetradecyldimethylammonium bromide
A one-liter, 3-necked, round-bottomed flask equipped with air condensers and a magnetic stirring plate was charged with N,N-dimethyltetradecylamine (311.59 grams, 1.29 moles), 1-bromo-3-chloropropane (203.09 grams, 1.29 moles) and methanol (250 mL). Reaction was maintained at 65° C. for 24 hours. Methanol was removed by rotary evaporation under reduced pressure to yield a sludge. To the sludge was added methyl-tert-butylether (500 mL) causing a white solid to slowly form The mixture was stirred for one-half hour and white, paste-like particulate was collected by vacuum filtration. The solid was placed in a vacuum oven at 35° C. for 24 hours. Yield 420 grams (1.05 molest 82%).

reactant | N,N-dimethyltetradecylamine | 1.29 moles, 311.59 grams | CN(C)CCCCCCCCCCCCCC | C16H35N
reactant | 1-bromo-3-chloropropane | 1.29 moles, 203.09 grams | BrCCCCl | C3H6BrCl
reactant | methanol | 250 mL | CO | CH4O
solvent | methyl-tert-butylether | 500 mL | COC(C)(C)C | C5H12O
product | (3-chloropropyl)tetradecyldimethylammonium bromide | [Br-].ClCCC[N+](C)(C)CCCCCCCCCCCCCC | InChI=1S/C19H41ClN.BrH/c1-4-5-6-7-8-9-10-11-12-13-14-15-18-21(2,3)19-16-17-20;/h4-19H2,1-3H3;1H/q+1;/p-1
